US08404856B2
Step 3: 3-(3-bromo-5-chlorophenoxy)-4-chloropyridine-2-carbonitrile 21-3
To a solution of 4-chloro-3-fluoropyridine-2-carbonitrile (2.18 g, 9.03 mmol) in DMF (10 mL) was added 3-bromo-5-chlorophenol (1.96 g, 9.48 mmol) and potassium carbonate (1.25 g, 9.03 mmol) and the mixture was heated to 55° C. for 10 minutes. The mixture was cooled to room temperature and partitioned between water (200 mL) and ethyl acetate (2×100 mL). The combined organic extracts were dried over MgSO4, filtered, and the solvent evaporated in vacuo to provide the title compound. LRMS (M+1): 344.8

reactant | 4-chloro-3-fluoropyridine-2-carbonitrile | 9.03 mmol, 2.18 g | ClC1=C(C(=NC=C1)C#N)F | C6H2ClFN2
reactant | 3-bromo-5-chlorophenol | 9.48 mmol, 1.96 g | BrC=1C=C(C=C(C1)Cl)O | C6H4BrClO
reactant | potassium carbonate | 9.03 mmol, 1.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(3-bromo-5-chlorophenoxy)-4-chloropyridine-2-carbonitrile | BrC=1C=C(OC=2C(=NC=CC2Cl)C#N)C=C(C1)Cl | C12H5BrCl2N2O
